US05318977
Preparation of 2,3-dihydro-N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-1H-indole-1-carboxamide
7a-Aminomethylhexahydro-1H-pyrrolizine is reacted with indoline-N-trichloromethylcarbamate [J. Medicinal Chemistry (1990) 33: 1929] in toluene at reflux to afford the title compound after extractive workup and column chromatography.

reactant | 7a-Aminomethylhexahydro-1H-pyrrolizine | NCC12CCCN2CCC1 | C8H16N2
reactant | indoline N-trichloromethylcarbamate | N1CCC2=CC=CC=C12.ClC(NC([O-])=O)(Cl)Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-N-(tetrahydro-1H-pyrrolizin-7a(5H)-ylmethyl)-1H-indole-1-carboxamide | C1CCN2CCCC12CNC(=O)N1CCC2=CC=CC=C12 | C17H23N3O
